************************************************************************
* auCdl Netlist:
* 
* Library Name:  CONSTANT_GM
* Top Cell Name: constant_gm
* View Name:     schematic
* Netlisted on:  Jun 20 05:58:59 2024
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.LDD
*.SCALE METER
.PARAM



************************************************************************
* Library Name: CONSTANT_GM
* Cell Name:    constant_gm
* View Name:    schematic
************************************************************************

.SUBCKT constant_gm GNDA OUT1 OUT2 OUT3 VDD3
*.PININFO GNDA:B OUT1:B OUT2:B OUT3:B VDD3:B
MM1 net1 net1 net13 GNDA NE3 W=10u L=2.5u M=2.0 AD=2.7e-12 AS=4.8e-12 
+ PD=1.054e-05 PS=2.096e-05 NRD=0.027 NRS=0.027
MM0 net24 net1 net23 GNDA NE3 W=10u L=2.5u M=2.0 AD=2.7e-12 AS=4.8e-12 
+ PD=1.054e-05 PS=2.096e-05 NRD=0.027 NRS=0.027
MM17 VDD3 VDD3 VDD3 VDD3 PE3 W=10u L=2.5u M=5.0 AD=4.8e-12 AS=4.8e-12 
+ PD=2.096e-05 PS=2.096e-05 NRD=0.027 NRS=0.027
MM16 net47 net17 VDD3 VDD3 PE3 W=10u L=2.5u M=1.0 AD=4.8e-12 AS=4.8e-12 
+ PD=2.096e-05 PS=2.096e-05 NRD=0.027 NRS=0.027
MM15 OUT3 net24 net47 VDD3 PE3 W=10u L=2.5u M=1.0 AD=4.8e-12 AS=4.8e-12 
+ PD=2.096e-05 PS=2.096e-05 NRD=0.027 NRS=0.027
MM14 net2 net2 net24 net24 PE3 W=2u L=10u M=1.0 AD=9.6e-13 AS=9.6e-13 
+ PD=4.96e-06 PS=4.96e-06 NRD=0.135 NRS=0.135
MM13 net40 net17 VDD3 VDD3 PE3 W=10u L=2.5u M=2.0 AD=4.8e-12 AS=4.8e-12 
+ PD=2.096e-05 PS=2.096e-05 NRD=0.027 NRS=0.027
MM11 OUT2 net24 net40 VDD3 PE3 W=10u L=2.5u M=2.0 AD=2.7e-12 AS=4.8e-12 
+ PD=1.054e-05 PS=2.096e-05 NRD=0.027 NRS=0.027
MM8 net1 net1 net2 net2 PE3 W=2u L=10u M=1.0 AD=9.6e-13 AS=9.6e-13 PD=4.96e-06 
+ PS=4.96e-06 NRD=0.135 NRS=0.135
MM7 OUT1 net24 net30 VDD3 PE3 W=10u L=2.5u M=2.0 AD=2.7e-12 AS=4.8e-12 
+ PD=1.054e-05 PS=2.096e-05 NRD=0.027 NRS=0.027
MM6 net30 net17 VDD3 VDD3 PE3 W=10u L=2.5u M=2.0 AD=4.8e-12 AS=4.8e-12 
+ PD=2.096e-05 PS=2.096e-05 NRD=0.027 NRS=0.027
MM5 net1 net24 net18 VDD3 PE3 W=10u L=2.5u M=2.0 AD=2.7e-12 AS=4.8e-12 
+ PD=1.054e-05 PS=2.096e-05 NRD=0.027 NRS=0.027
MM3 net24 net24 net17 VDD3 PE3 W=10u L=2.5u M=2.0 AD=2.7e-12 AS=4.8e-12 
+ PD=1.054e-05 PS=2.096e-05 NRD=0.027 NRS=0.027
MM9 net18 net17 VDD3 VDD3 PE3 W=10u L=2.5u M=2.0 AD=4.8e-12 AS=4.8e-12 
+ PD=2.096e-05 PS=2.096e-05 NRD=0.027 NRS=0.027
MM12 net17 net17 VDD3 VDD3 PE3 W=10u L=2.5u M=2.0 AD=4.8e-12 AS=4.8e-12 
+ PD=2.096e-05 PS=2.096e-05 NRD=0.027 NRS=0.027
RR3 GNDA net25 69999.7 $SUB=VDD3 $[RPP1K1_3] $W=4u $L=287.8u M=1
XM4 net13 net13 GNDA GNDA VDD3 GNDA / ne3i_6 W=10u L=2.5u M=2.0 AD=2.7e-12 
+ AS=4.8e-12 NRD=0.027 NRS=0.027 PD=1.054e-05 PS=2.096e-05 par1=2.0
XM2 net23 net13 net25 net25 VDD3 GNDA / ne3i_6 W=10u L=2.5u M=8.0 AD=2.7e-12 
+ AS=3.225e-12 NRD=0.027 NRS=0.027 PD=1.054e-05 PS=1.3145e-05 par1=8.0
.ENDS


.SUBCKT ne3i_6 D G S B NW SB 
*.PININFO  D:B G:B S:B B:B NW:B SB:B
.ENDS
